US07183320B2
N-[2-chloro-4-bromobenzoyl]-4-chlorophenylsulfonamide
An 8 mL reaction vial is charged with 2-chloro-4-bromobenzoic acid (0.39 mmol, 1.5 eq) and 2.0 mL of dichloromethane. A stock solution (4.0 mL) containing 4-chlorophenylsulfonamide (0.26 mmol, 1 eq) and N,N-[dimethyl]-4-aminopyridine (48 mg, 0.39 mmol, 1.5 eq) in dichloromethane is added, followed by 0.261 g carbodiimide polystyrene resin (2.0 mmol/g, 0.52 mmol, 2.0 eq, Novabiochem) and the vial is capped and rotated. After 72 hr, 0.77 g sulphonated polystyrene resin (NP-TsOH) is added (1.53 mmol/g, 1.17 mmol, Argonaut). After about 18 hr the reaction mixture is filtered and concentrated under a stream of nitrogen. The residue is subjected to reverse phase HPLC; CombiPrep column, YMC ODS-A 20×50 mm column with 5 micron, C18, 120 Angstrom pore size, gradient: 5% to 95% CH3CN/0.01 HCl aqueous solution. Fractions containing product are combined and concentrated under reduced pressure to provide the title compound.

reactant | 2-chloro-4-bromobenzoic acid | 0.39 mmol, 1.5 eq | ClC1=C(C(=O)O)C=CC(=C1)Br | C7H4BrClO2
reactant | 4-chlorophenylsulfonamide | 0.26 mmol, 1 eq | ClC1=CC=C(C=C1)S(=O)(=O)N | C6H6ClNO2S
reactant | TsOH | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
product | N-[2-chloro-4-bromobenzoyl]-4-chlorophenylsulfonamide | ClC1=C(C(=O)NS(=O)(=O)C2=CC=C(C=C2)Cl)C=CC(=C1)Br | C13H8BrCl2NO3S
